US06878714B2
A mixture of 2-(4-nitrophenyl)ethylamine (1.01 g, 5.0 mmol), and di-tert-butyl dicarbonate (1.09 g, 5.0 mmol) in CH2Cl2 (20 mL) and 1N NaOH (20 mL) was stirred for 20 h at RT. The mixture was extracted with CH2Cl2, washed with brine, and dried with MgSO4. Filtration and concentration yielded (tert-butoxy)-N-[2-(4-nitrophenyl)ethyl]carboxamide, which was used in next step without further purification.

reactant | 2-(4-nitrophenyl)ethylamine | 5.0 mmol, 1.01 g | [N+](=O)([O-])C1=CC=C(C=C1)CCN | C8H10N2O2
reactant | di-tert-butyl dicarbonate | 5.0 mmol, 1.09 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | NaOH | 1N, 20 mL | [OH-].[Na+]
product | (tert-butoxy)-N-[2-(4-nitrophenyl)ethyl]carboxamide | C(C)(C)(C)OC(=O)NCCC1=CC=C(C=C1)[N+](=O)[O-] | C13H18N2O4
